US09102637B2
5-{4-[(4-methylpiperazin-1-yl)methyl]benzamido}-2-(naphthalen-2-ylamino)thiazole-4-carboxamide
To a mixture of 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide (0.50 g, 1.76 mmol) and. N,N-diisopropylethylamine (0.3 mL, 1.94 mmol) in DMA (30 mL) was added 4-chloromethylbenzoyl chloride (0.37g, 1.94 mmol) at 0° C. The mixture was stirred for 3 hrs at rt. Then 1-methylpiperazine (0.1 mL, 0.95 mmol) was added to the mixture (0.083 g in 5 mL DMA), and the mixture was stirred for 16 hrs at rt. The reaction mixture was diluted with ethyl acetate (150 mL), washed with water, and dried over Na2SO4. The solvent was evaporated under reduced pressure, and the crude residue was purified by silica gel column chromatograph eluted with 5% MeOH in DCM to give 0.010 g (11% yield) of the titled compound.

reactant | 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 1.76 mmol, 0.50 g | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)N | C14H12N4OS
reactant | N,N-diisopropylethylamine | 1.94 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloromethylbenzoyl chloride | 1.94 mmol, 0.37g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 1-methylpiperazine | 0.95 mmol, 0.1 mL | CN1CCNCC1 | C5H12N2
solvent | DMA | 30 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5-{4-[(4-methylpiperazin-1-yl)methyl]benzamido}-2-(naphthalen-2-ylamino)thiazole-4-carboxamide | 0.010 g, 11% yield | CN1CCN(CC1)CC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC3=CC=CC=C3C=C2)C(=O)N)C=C1 | C27H28N6O2S
